US05527819
Step B: Ethyl 3-phenylthio-5-chloroindole-2-carboxylate
To a partial suspension of ethyl 5-chloroindole-2-carboxylate (698 mg, 3.1 mmol) and N-(phenylthio)succinimide (683 mg, 3.3 mmol) in anhydrous methylene chloride (20 mL) at ambient temperature under an inert gas atmosphere was added boron trifluoride etherate (0.12 mL, 1.0 mmol). The reaction was monitored by tlc (thin layer chromatography) until complete. After 2 hours, the reaction was diluted with chloroform and neutralized with aq. NaHCO3. The organic layer was dried (Na2SO4), filtered through a pad of charcoal, and the solvents evaporated. The residue was triturated with hexanes as the product crystallized out to yield the title product, mp 160°-162° C. [see Table II, mp 163°-164° C⟧ This material was used as is.

reactant | ethyl 5-chloroindole-2-carboxylate | 3.1 mmol, 698 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | N-(phenylthio)succinimide | 3.3 mmol, 683 mg | C1(=CC=CC=C1)SN1C(CCC1=O)=O | C10H9NO2S
reactant | boron trifluoride etherate | 1.0 mmol, 0.12 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Ethyl 3-phenylthio-5-chloroindole-2-carboxylate | C1(=CC=CC=C1)SC1=C(NC2=CC=C(C=C12)Cl)C(=O)OCC | C17H14ClNO2S
